US05318969
Trans-4-(2-benzoylhydrazino)-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol (320 mg) was dissolved in 1 ml of chloroform, 0.5 ml of pyridine was added, and 0.28 ml of acetyl chloride was added with stirring under ice cooling. After stirring at room temperature for 80 minutes, the solvent was distilled off under reduced pressure and the residue was dissolved in 5 ml of methanol. The solution was treated with 5 ml of 1N-sodium hydroxide at room temperature for 30 minutes. After the methanol had been distilled off, the residue was shaken together with ethyl acetate-water and the organic layer was washed with an aqueous solution of sodium chloride and subsequently concentrated. This was recrystallized from hexane-ethanol (1:1) to give 170 mg of trans-4-(1-acetyl-2-benzoylhydrazino)-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol.monohydrate as white crystals, m.p. 212°-213° C.

reactant | Trans-4-(2-benzoylhydrazino)-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol | 320 mg | C(C1=CC=CC=C1)(=O)NN[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C19H19N3O3
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.28 ml | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | trans-4-(1-acetyl-2-benzoylhydrazino)-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol | 170 mg | C(C)(=O)N(NC(C1=CC=CC=C1)=O)[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C21H21N3O4
